US07951550B2
Synthesis of 4-bromomethylphenol acetate.
To the solution of 4-hydroxymethylphenol acetate (2.50 g, 15.0 mmol) and carbon tetrabromide (5.97 g, 18.0 mmol) in 40 ml of methylene chloride was added triphenylphosphine (4.73 g, 180 mmol) under nitrogen. The resultant mixture was stirred for 3 hours. The product was purified by flash chromatography using heptane/ethyl acetate (90/10-80/20) as eluent in a yield of 79%.

reactant | 4-hydroxymethylphenol acetate | 15.0 mmol, 2.50 g | C(C)(=O)OC1=CC=C(C=C1)CO | C9H10O3
reactant | carbon tetrabromide | 18.0 mmol, 5.97 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 180 mmol, 4.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-bromomethylphenol acetate | yield of 79% | C(C)(=O)OC1=CC=C(C=C1)CBr | C9H9BrO2
